US04118483
(b) Z-D-Gln(Bzl)-OH
6 Grams of Z-D-Gln(Bzl)-OBzl are suspended in 100 ml of dioxane/water (4:1) and titrated with 1n-sodium hydroxide solution (thymolphthalein as indicator). Consumption: 13 ml of 1n-NaOH. Neutralisation with 2n-HCl and concentration are then carried out. The residue is distributed between ethyl acetate and 2n-HCl. Insoluble matter is filtered off with suction. The ethyl acetate phase is washed with water, dried with sodium sulphate and concentrated. The residue is triturated with ether and filtered off with suction. Yield: 3.05 grams melting at 80°-110°.

reactant | Z-D-Gln(Bzl)-OBzl | N([C@H](CCC(NCC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H28N2O5
solvent | dioxane water | 100 ml | O1CCOCC1.O
product | Z-D-Gln(Bzl)-OH | N([C@H](CCC(NCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
